US08541457B2
A mixture of 4-bromobenzoic acid ethyl ester (4.58 g, 20.00 mmol), 2-hydroxypyridine (0.95 g, 10.00 mmol), potassium carbonate (1.39 g, 10.00 mmol), and CuI (0.095 g, 0.50 mmol) was stirred at 120° C. for 6 h under a nitrogen atmosphere. The diluted aqueous ammonia (50 mL) was added, and the solution was extracted with ethyl acetate (3×50 mL). The organic extracts were dried over anhydrous sodium sulfate, filtered. The solvent was removed in vacuo to afford ethyl 4-(2-oxopyridin-1(2H)-yl)benzoate in 86% yield (2.10 g); NMR (CDCl3, 300 MHz) δ 8.15 (d, J=8.5 Hz, 2H), 7.46 (d, J=8.5 Hz, 2H), 7.39 (ddd, J=2.0, 6.6, 9.0 Hz, 1H), 7.31 (dd, J=2.0, 6.6 Hz, 1H), 6.65 (d, J=9.0 Hz, 1H), 6.26 (dt, J=1.1, 6.6 Hz, 1H), 4.38 (q, J=7.1 Hz, 2H), 1.39 (t, J=7.1 Hz, 3H).

reactant | 4-bromobenzoic acid ethyl ester | 20.00 mmol, 4.58 g | C(C)OC(C1=CC=C(C=C1)Br)=O | C9H9BrO2
reactant | 2-hydroxypyridine | 10.00 mmol, 0.95 g | OC1=NC=CC=C1 | C5H5NO
reactant | potassium carbonate | 10.00 mmol, 1.39 g | C([O-])([O-])=O.[K+].[K+]
catalyst | CuI | 0.50 mmol, 0.095 g | [Cu]I
solvent | ammonia | 50 mL | N | H3N
product | ethyl 4-(2-oxopyridin-1(2H)-yl)benzoate | 86% yield | O=C1N(C=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C14H13NO3
